US08278441B2
Racemic (3 aRS,5RS,6aSR)-6a-(3-Bromo-4-fluorophenyl)hexahydro-1H-cyclopenta[c] isoxazol-5-ol
A mixture of racemic (3aRS,5RS,6aSR)-6a-(3-bromo-4-fluorophenyl)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazol-5-ol (0.852 g, 1.79 mmol) and triethylsilane (0.624 g, 5.37 mmol) in TFA (4 mL) is heated to 80° C. for 3 h. The reaction is cooled to room temperature and concentrated under reduced pressure to afford a residue that is purified on a SCX column washing sequentially with dichloromethane, methanol and 7 N NH3 in MeOH to give the title compound as racemic mixture (0.57 g, 100%). ES/MS m/e (79Br/81Br) 302, 304 (M+1).

reactant | racemic (3aRS,5RS,6aSR)-6a-(3-bromo-4-fluorophenyl)-1-(2,4-dimethoxybenzyl)hexahydro-1H-cyclopenta[c]isoxazol-5-ol | 1.79 mmol, 0.852 g | BrC=1C=C(C=CC1F)C12N(OCC1CC(C2)O)CC2=C(C=C(C=C2)OC)OC | C21H23BrFNO4
reactant | triethylsilane | 5.37 mmol, 0.624 g | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Racemic (3 aRS,5RS,6aSR)-6a-(3-Bromo-4-fluorophenyl)hexahydro-1H-cyclopenta[c] isoxazol-5-ol | BrC=1C=C(C=CC1F)C12NOCC1CC(C2)O | C12H13BrFNO2
